US09403768B2
Lithium hydroxide monohydrate (187 mg, 4.46 mmol, Eq: 3) in water (4.5 mL) was added to an ice-bath cooled solution of (S)-ethyl 1-((S)-2-(tert-butoxycarbonylamino)-3-methylbutanoyl)indoline-2-carboxylate (0.58 g, 1.49 mmol, Eq: 1.00) in THF (13.5 mL) and MeOH (4.5 mL). The cooling bath was removed and the reaction was stirred at rt for 1 h. 0.1 M Aqueous KHSO4 (50 mL) was added to the reaction mixture and the resulting mixture was extracted with DCM (2×50 mL). The aqueous layer was further acidified with 1 M aqueous HCl (˜5 mL) and extracted again with DCM (2×50 mL). The organic layers were combined, dried over Na2SO4 and concentrated in vacuo. The residue was azeotroped with hexanes to give (S)-1-((S)-2-(tert-butoxycarbonylamino)-3-methylbutanoyl)indoline-2-carboxylic acid (0.56 g), m/z=363 (M+H).

reactant | Lithium hydroxide monohydrate | 4.46 mmol, 187 mg | O.[OH-].[Li+]
reactant | (S)-ethyl 1-((S)-2-(tert-butoxycarbonylamino)-3-methylbutanoyl)indoline-2-carboxylate | 1.49 mmol, 0.58 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@@H](CC2=CC=CC=C12)C(=O)OCC)C(C)C | C21H30N2O5
solvent | water | 4.5 mL | O | H2O
solvent | THF | 13.5 mL | C1CCOC1 | C4H8O
solvent | MeOH | 4.5 mL | CO | CH4O
product | (S)-1-((S)-2-(tert-butoxycarbonylamino)-3-methylbutanoyl)indoline-2-carboxylic acid | 0.56 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@@H](CC2=CC=CC=C12)C(=O)O)C(C)C | C19H26N2O5
